US07399759B2
2-[6-(4-Methoxyphenyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one
6-(4-Methoxyphenyl)-2-pyridinecarbonitrile (0.81 g, 3.8 mmol) and methyl thiosalicylate (1.07 g, 6.3 mmol) were dissolved in toluene (4 ml), and triethylamine (2.0 ml, 14.3 mmol) was added thereto. The mixture was refluxed for 8 hrs. After cooling, the precipitates were collected by filtration and recrystallized from hexane-tetrahydrofuran to give the titled compound (0.87 g, 65%) as pale yellow crystals.

reactant | 6-(4-Methoxyphenyl)-2-pyridinecarbonitrile | 3.8 mmol, 0.81 g | COC1=CC=C(C=C1)C1=CC=CC(=N1)C#N | C13H10N2O
reactant | methyl thiosalicylate | 6.3 mmol, 1.07 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 14.3 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[6-(4-Methoxyphenyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one | 0.87 g, 65% | COC1=CC=C(C=C1)C1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C20H14N2O2S
